US06667316B1
A mixture of 3-amino-3-(ethoxy-4-methoxyphenyl)propionic acid (20 g, 83.5 mmol), 2N sodium hydroxide (50 mL), t-butanol (42 mL) and water (80 mL) was stirred at 10° C. Di-(tert-butyl)dicarbonate (20 g, 91.6 mmol) was added in portions over 25 minutes. The resulting mixture was stirred at room temperature for 2 hours (maintained at pH 10 by the addition of 2N sodium hydroxide). The mixture was washed with ether and the aqueous solution was acidified to pH 2 with 6N hydrochloric acid. The slurry was filtered and washed with water to yield 3-(tert-butyloxycarbonylamino)-3-(3-ethoxy-4-methoxyphenyl)propionic acid as a white solid (28.3 g, 100%); 1H NMR (CDCl3/DMSO-d6) δ6.86-6.78 (m, 3H), 5.83 (d, J=8.3 Hz, 1H), 4.98 (b, 1H), 4.09 (q, J=7.0 Hz, 2H), 3.83 (s, 3H), 2.77 (m, 2H), 1.46-1.41 (m, 12H); 13C NMR (CDCl3/DMSO-d6) δ173.22, 155.02, 148.15, 147.89, 134.31, 117.97, 111.22, 111.07, 79.12, 64.01, 55.09, 50.76, 40.78, 28.11, 14.55.

reactant | 3-amino-3-(ethoxy-4-methoxyphenyl)propionic acid | 83.5 mmol, 20 g | NC(CC(=O)O)C1=C(C=C(C=C1)OC)OCC | C12H17NO4
reactant | sodium hydroxide | 2N, 50 mL | [OH-].[Na+]
reactant | t-butanol | 42 mL | C(C)(C)(C)O | C4H10O
reactant | Di-(tert-butyl)dicarbonate | 91.6 mmol, 20 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 80 mL | O | H2O
product | 3-(tert-butyloxycarbonylamino)-3-(3-ethoxy-4-methoxyphenyl)propionic acid | 28.3 g, 100% | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C17H25NO6
